US06730668B2
Preparation of 4-(2,2-dimethylpropionyloxy)pyrazolidine-1-carboxylic acid 1-benzyl ester (30):
4-(2,2-Dimethylpropionyloxy)pyrazolidine-1,2-dicarboxylic acid 1-benzyl ester 2-tert-butyl ester, 29, (1.76 g, 4.33 mmol) is dissolved in methanol (40 mL) and the solution cooled to 0° C. Thionyl chloride (3.16 mL, 43.3 mmol) is added dropwise and the reaction allowed to warm to room temperature and continue stirring 12 hours. The reaction solution is concentrated in vacuo to give afford 1.45 g (98% yield) of the desired product as the HCl salt as an off-white solid.

reactant | 4-(2,2-Dimethylpropionyloxy)pyrazolidine-1,2-dicarboxylic acid 1-benzyl ester 2-tert-butyl ester | C(C)(C)(C)OC(=O)N1N(CC(C1)OC(C(C)(C)C)=O)C(=O)OCC1=CC=CC=C1 | C21H30N2O6
reactant | Thionyl chloride | 43.3 mmol, 3.16 mL | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
product | 4-(2,2-dimethylpropionyloxy)pyrazolidine-1-carboxylic acid 1-benzyl ester | 1.45 g, 98% yield | C(C1=CC=CC=C1)OC(=O)N1NCC(C1)OC(C(C)(C)C)=O | C16H22N2O4
